US07381841B2
c) Methyl 5-methanesulfonyl-2-methyl-4-(3-pentafluorosulfanylphenyl-amino)benzoate
1.0 g of N-(3-pentafluorosulfanylphenyl)methanesulfonamide, 0.8 g of methyl 4-fluoro-5-methanesulfonyl-2-methylbenzoate and 1.4 ml of TBTMG were dissolved in 10 ml of NMP (anhydrous) and stirred at 150° C. for 7 h. The mixture was then diluted with 100 ml of EA and washed firstly 3 times with 30 ml of a saturated aqueous Na2CO3 solution each time and then 3 times with 30 ml of a saturated aqueous NaHSO4 solution each time. The residue after drying over MgSO4 and removal of the solvent in vacuo was chromatographed on silica gel with DIP. 370 mg of a resinous solid were obtained.

reactant | N-(3-pentafluorosulfanylphenyl)methanesulfonamide | 1.0 g | FS(C=1C=C(C=CC1)NS(=O)(=O)C)(F)(F)(F)F | C7H8F5NO2S2
reactant | methyl 4-fluoro-5-methanesulfonyl-2-methylbenzoate | 0.8 g | FC1=CC(=C(C(=O)OC)C=C1S(=O)(=O)C)C | C10H11FO4S
solvent | NMP | 10 ml | CN1CCCC1=O | C5H9NO
solvent | EA | 100 ml | CC(OCC)=O | C4H8O2
product | Methyl 5-methanesulfonyl-2-methyl-4-(3-pentafluorosulfanylphenyl-amino)benzoate | 370 mg | CS(=O)(=O)C=1C(=CC(=C(C(=O)OC)C1)C)NC1=CC(=CC=C1)S(F)(F)(F)(F)F | C16H16F5NO4S2
